US07485637B2
[4-(4-Chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-(2-cyclopropylmethoxy-5-methanesulfonyl-phenyl)-methanone
According to the procedure described for the synthesis of example 4, step f, the title compound has been synthesized from 2-cyclopropylmethoxy-5-methanesulfonyl-benzoic acid (CAS: 845616-03-7) and 4-(4-chloro-phenyl)-1,2,3,6-tetrahydro-pyridine hydrochloride (commercial). MS (m/e): 446.0 (MH+, 100%).

reactant | 2-cyclopropylmethoxy-5-methanesulfonyl-benzoic acid | C1(CC1)COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C12H14O5S
reactant | 4-(4-chloro-phenyl)-1,2,3,6-tetrahydro-pyridine hydrochloride | Cl.ClC1=CC=C(C=C1)C=1CCNCC1
product | [4-(4-Chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-(2-cyclopropylmethoxy-5-methanesulfonyl-phenyl)-methanone | ClC1=CC=C(C=C1)C=1CCN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)OCC1CC1 | C23H24ClNO4S
